US05241071
Phosphorus pentachloride (1.2 g, 0.0057 mole) and N-(4,4,4-trinitrobutyryl)-N'-(perfluorobutyryl)hydrazine (0.8 g, 0.0018 mole) in 10mL of dichloroethane was held at reflux temperature for 4 hours. Removal of volatiles 9ave an oil which was washed with water and then chromatographed on Silica gel 40 (CH2Cl2 as eluent) to give 0.5 g (66%) of 2-(3,3,3-trinitropropyl)-5-(perfluoropropyl)-1,3,4-oxadiazole, mp 43°-45° C.; 1H NMR (acetone): 3.84 (m, 2H), 4.23 (m, 2H). Anal. Calcd for C8H4F7N5O7 : C, 23.14; H, 0.97; F, 32.04; N, 16.87. Found: C, 23.07; H, 1.00; F, 31.80; N, 16.95.

reactant | Phosphorus pentachloride | 0.0057 mole, 1.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-(4,4,4-trinitrobutyryl)-N'-(perfluorobutyryl)hydrazine | 0.0018 mole, 0.8 g | [N+](=O)([O-])C(CCC(=O)NNC(C(C(C(F)(F)F)(F)F)(F)F)=O)([N+](=O)[O-])[N+](=O)[O-] | C8H6F7N5O8
solvent | dichloroethane | 10mL | ClC(C)Cl | C2H4Cl2
product | 2-(3,3,3-trinitropropyl)-5-(perfluoropropyl)-1,3,4-oxadiazole | 0.5 g, 66% | [N+](=O)([O-])C(CCC=1OC(=NN1)C(C(C(F)(F)F)(F)F)(F)F)([N+](=O)[O-])[N+](=O)[O-] | C8H4F7N5O7
